US07884207B2
Under a nitrogen atmosphere boron tribromide (6.15 mL of 1M in dichloromethane) was added dropwise over a period of 10 minutes to a chilled (0° C.) solution of 1-[(4-amino-2-ethoxymethyl-1H-imidazo[4,5-c][1,5]napthyridin-1-yl)methyl]cyclobutanol (0.67 g, 2.0 mmol) in dichloromethane (20 mL). The reaction mixture was allowed to warn to ambient temperature and was stirred overnight. The reaction mixture was cooled to 0° C. and then more boron tribromide (1.0 mL) was added. The reaction mixture was stirred at ambient temperature for 4 hours. Methanol (10 mL) and hydrochloric acid (10 mL of 6N) were added and the reaction mixture was heated at reflux for 1 hour. The reaction mixture was allowed to cool to ambient temperature and was then made basic with 6N sodium hydroxide. A portion of the solvent was removed under vacuum, water (10 mL) was added, and the mixture was sonicated. A solid was isolated by filtration and rinsed with water. The aqueous filtrate was extracted with chloroform (3×80 mL). The combined organics were washed with brine (20 mL), dried over sodium sulfate, filtered, and then concentrated under reduced pressure. The residue was combined with the isolated solid and then purified by HPFC eluting with a gradient of 0-30% CMA in chloroform, triturated with acetonitrile, and dried. The resulting material was suspended in water (70 mL) and heated to 90° C. Concentrated hydrochloric acid (about 0.8 mL) was added until a solution was obtained. The hot solution was made basic with solid sodium bicarbonate and then allowed to cool. A precipitate was isolated by filtration, washed well with water, and then dried to provide 1-[(4-amino-2-hydroxymethyl-1H-imidazo[4,5-c][1,5]napthyridin-1-yl)methyl]cyclobutanol as a white powder, mp 244.0-246.0° C. Anal. Calcd for C15H17N5O2: C, 60.19; H, 5.72; N, 23.40. Found: C, 59.97; H, 5.81; N, 23.31.

reactant | boron tribromide | 1M, 6.15 mL | B(Br)(Br)Br | BBr3
reactant | 1-[(4-amino-2-ethoxymethyl-1H-imidazo[4,5-c][1,5]napthyridin-1-yl)methyl]cyclobutanol | 2.0 mmol, 0.67 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCC2)O)COCC | C17H21N5O2
reactant | boron tribromide | 1.0 mL | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | 6N, 10 mL | Cl | ClH
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | Methanol | 10 mL | CO | CH4O
product | 1-[(4-amino-2-hydroxymethyl-1H-imidazo[4,5-c][1,5]napthyridin-1-yl)methyl]cyclobutanol | NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCC2)O)CO | C15H17N5O2
